US05220042
2.7 Grams (9.0 mM) of 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]acetoaldehyde was dissolved in 80 ml of benzene, then to this solution was added 1.56 g (10.8 mM) of Meldrum's acid (2,2-dimethyl-1,3-dioxane-4,6-dione) and 2.18 g (21.6 mM) of triethylamine were added and the reaction mixture was stirred at room temperature for 12 hours. 100 Milliliters of benzene was added to the reaction mixture and washed twice with 200 ml of water and further washed twice with a saturated sodium chloride aqueous solution, then the benzene solution was dried over anhydrous magnesium sulfate. The benzene solution was concentrated under reduced pressure and the residue obtained was purified by a silica gel column chromatography (diameter 5 cm×length 15 cm, eluent: 30% ethyl acetatehexane, "Wakogel C-200") to yield 2.9 g of 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-2-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)ethane. Light yellow indefinite form powdery substance.

reactant | 2-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]acetoaldehyde | 9.0 mM | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CC=O | C14H20O7
reactant | Meldrum's acid | 10.8 mM, 1.56 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
reactant | triethylamine | 21.6 mM, 2.18 g | C(C)N(CC)CC | C6H15N
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 1-[2,5-dimethoxy-3,6-bis(methoxymethoxy)phenyl]-2-(2,2-dimethyl-4,6-dioxo-1,3-dioxan-5-ylidene)ethane | 2.9 g | COC1=C(C(=C(C=C1OCOC)OC)OCOC)CC=C1C(OC(OC1=O)(C)C)=O | C20H26O10
